US08067445B2
Step 5: [2′-(3-Cyano-1-ethyl-2-phenyl-isoureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester
(2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester (0.50 g, 1.26 mmol) and diphenyl cyanocarbonimidate (0.60 g, 2.51 mmol) were combined in MeCN (5 mL) and stirred at 40° C. until no starting material was seen by analytical LCMS. The mixture was concentrated and purified by silica gel chromatography (10-40% EtOAc in hexanes) to give the title compound.

reactant | (2′-Ethylaminomethyl-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl)-acetic acid ethyl ester | 1.26 mmol, 0.50 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O | C21H24F3NO3
reactant | diphenyl cyanocarbonimidate | 2.51 mmol, 0.60 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
solvent | MeCN | 5 mL | CC#N | C2H3N
product | [2′-(3-Cyano-1-ethyl-2-phenyl-isoureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(OC1=CC=CC=C1)=NC#N)CC)=O | C29H28F3N3O4
